* source PROIECT_CAD
Q_Q1         N00622 N00170 VCC Q2N1132
Q_Q2         N00170 N00170 VCC Q2N1132
R_R1         0 N00170  787k TC=0,0 
R_Rsenzor         0 N00622  {r} TC=0,0 
V_V1         VCC 0 11
V_V2         -VCC 0 -11
X_U1A         N00622 N00747 VCC -VCC N00747 TL082
R_R6         N00747 N00968  3.4k TC=0,0 
R_R7         N00968 0  2.8k TC=0,0 
R_R4         N01064 N00997  3.4k TC=0,0 
X_U1B         N00968 N00997 VCC -VCC N01047 TL082
R_R5         N00997 N01047  2.8k TC=0,0 
X_U2A         N01139 N01064 VCC -VCC N01064 TL082
R_R2         N01139 -VCC  6.65k TC=0,0 
R_R3         0 N01139  1.65k TC=0,0 
X_U2B         N01612 N01047 VCC -VCC N01629 TL082
R_R10         N01646 N01612  1k TC=0,0 
R_R11         N01612 N01629  14k TC=0,0 
X_U3A         N01762 N01646 VCC -VCC N01646 TL082
R_R8         N01762 VCC  4.99k TC=0,0 
R_R9         0 N01762  1k TC=0,0 
.PARAM  r=15k
